US08211914B2
A mixture of 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (10.0 g, 39.0 mmol), methylene chloride (500 mL), and a catalytic amount of DMF (0.2 mL) was stirred under argon, and oxalyl chloride (2M in methylene chloride, 50 mL, 100 mmol) was added dropwise into the mixture over 30 min. The mixture was stirred at room temperature for 1.0 hr and the reaction was concentrated to dryness. Benzene (100 mL) was added and the solution was evaporated to dryness again. The pale yellow solid was re-dissolved in methylene chloride (200 mL) and dripped, under argon, into a solution of 4-(4-amino-phenyl)-piperidine-1-carboxylic acid tert-butyl ester (10.8 g, 39.0 mmol), and triethylamine (10.2 g, 100 mmol) in methylene chloride (250 mL) over 30 min. The reaction was stirred at room temperature for 1 hr then concentrated and the residue was taken up in EtOAc (500 mL) and washed with hydrochloric acid (0.1N, 200 mL), water (200 mL), saturated sodium bicarbonate solution (200 mL), and brine (200 mL). The organic layer was dried with anhydrous sodium sulfate and filtered. The solvent was removed and the residue was triturated with hexanes to give 4-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-piperidine-1-carboxylic acid tert-butyl ester as a pale yellow solid (19.24 g, 96% yield). ES-MS for C27H28F3N3O4 calcd. (m/e) 515, observed 516 (M+H).

reactant | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid | 39.0 mmol, 10.0 g | C1(=CC=CC=C1)C=1OC(=C(N1)C(=O)O)C(F)(F)F | C11H6F3NO3
reactant | oxalyl chloride | 100 mmol, 2M, 50 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-(4-amino-phenyl)-piperidine-1-carboxylic acid tert-butyl ester | 39.0 mmol, 10.8 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)N | C16H24N2O2
reactant | triethylamine | 100 mmol, 10.2 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 250 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 500 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 0.2 mL | CN(C)C=O | C3H7NO
product | 4-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-piperidine-1-carboxylic acid tert-butyl ester | 19.24 g, 96% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1 | C27H28F3N3O4
